US04197239
3-Ethyl-hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepine
A solution of 3-ethylhexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one (1.5 g) in dry tetrahydrofuran was added to a stirred suspension of aluminium lithium hydride (0.48 g) and heated under reflux for 5 hours. The reaction mixture was cooled and decomposed by the addition of water and the precipitate filtered. The precipitate was washed with tetrahydrofuran and the combined filtrate and washings evaporated to a solid. The solid was dissolved in water and ammonium chloride added. The precipitated oil was extracted with dichloromethane, dried over anhydrous magnesium sulphate and evaporated to leave a solid which was recrystallised from acetonitrile to give 0.91 g of the title compound, m.p. 127.5°-133° C., identical with material prepared by an alternative route described in U.K. Pat. No. 1,285,025.

reactant | 3-ethylhexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one | 1.5 g | C(C)C1(C(N(CCCC1)C)=O)C1=CC(=CC=C1)O | C15H21NO2
reactant | aluminium lithium hydride | 0.48 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Ethyl-hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepine | 0.91 g | C(C)C1(CN(CCCC1)C)C1=CC(=CC=C1)O | C15H23NO
